US08802659B2
6-(trans-4-tert-butylcyclohexyloxy)quinoline-2-carbaldehyde
Di-tert-butyl peroxide (1.93 mL, 10.5 mmol) was added to a suspension of Selenium dioxide (2.68 g, 24.1 mmol) in 1,4-Dioxane (24.00 mL, 307.5 mmol). The mixture was stirred for 30 minutes, then 6-(trans-4-tert-Butyl-cyclohexyloxy)-2-methyl-quinoline (3.12 g, 10.5 mmol) was added as a solution in 1,4-Dioxane and the mixture was heated overnight at 50° C. The reaction mixture was then cooled to room temperature, diluted in chloroform and filtered through a pad of celite. The filtrate was washed with water. The layers were separated and the combined organic phase was dried over MgSO4, filtered, concentrated under reduced pressure, adsorbed onto silica gel and purified by flash chromatography (0-30% EtOAc in hexanes) to give the title compound as a pale yellow solid in 20% yield. ESI-MS (M+H+): 312.27.

reactant | Di-tert-butyl peroxide | 10.5 mmol, 1.93 mL | C(C)(C)(C)OOC(C)(C)C | C8H18O2
reactant | Selenium dioxide | 24.1 mmol, 2.68 g | [Se](=O)=O | O2Se
reactant | 6-(trans-4-tert-Butyl-cyclohexyloxy)-2-methyl-quinoline | 10.5 mmol, 3.12 g | C(C)(C)(C)[C@@H]1CC[C@H](CC1)OC=1C=C2C=CC(=NC2=CC1)C | C20H27NO
solvent | 1,4-Dioxane | O1CCOCC1 | C4H8O2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | 1,4-Dioxane | 307.5 mmol, 24.00 mL | O1CCOCC1 | C4H8O2
product | 6-(trans-4-tert-butylcyclohexyloxy)quinoline-2-carbaldehyde | 20% yield | C(C)(C)(C)[C@@H]1CC[C@H](CC1)OC=1C=C2C=CC(=NC2=CC1)C=O | C20H25NO2
